US09260414B2
((S)-1-{(S)-2-[4-(4-bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester
Triethylamine (2.3 g, 11.4 mmol) was added to a solution of 4-(4-bromo-phenyl)-2-(S)-pyrrolidin-2-yl-1H-imidazole hydrochloride (2 g, 11.4 mol), (S)-2-methoxycarbonylamino-3-methyl-butyric acid (2.5 g, 7.6 mmol), and HATU (4.3 g, 11.4 mmol) in dimethylformamide (50 mL) at 0° C. under nitrogen. The reaction mixture was stirred at room temperature overnight and treated with ethyl acetate (100 mL) and water (1000 mL). The organic layer was washed with water (2×100 mL) and brine (100 mL), dried over anhydrous sodium sulfate and concentrated. The residue was purified by silica gel column chromatography in 1:1 petroleum ether:ethyl acetate to give the title compound (2.5 g 74% yield) as a yellow solid. 1H NMR (d6-DMSO, 400 MHz) δ (ppm) 7.63 (d, J=8.8 Hz, 2H), 7.54 (m, 1H), 7.47 (m, 2H), 7.26 (d, J=8.4 Hz, 1H), 5.03 (m, 1H), 4.02 (t, J=8.4 Hz, 1H), 3.76 (m, 2H), 3.51 (s, 3H), 2.10 (m, 2H), 1.93 (m, 3H), 0.85 (d, J=6.8 Hz, 3H), 0.81 (d, J=6.8 Hz, 3H).

reactant | Triethylamine | 11.4 mmol, 2.3 g | C(C)N(CC)CC | C6H15N
reactant | 4-(4-bromo-phenyl)-2-(S)-pyrrolidin-2-yl-1H-imidazole hydrochloride | 11.4 mol, 2 g | Cl.BrC1=CC=C(C=C1)C=1N=C(NC1)[C@H]1NCCC1
reactant | (S)-2-methoxycarbonylamino-3-methyl-butyric acid | 7.6 mmol, 2.5 g | COC(=O)N[C@H](C(=O)O)C(C)C | C7H13NO4
reactant | HATU | 11.4 mmol, 4.3 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 1000 mL | O | H2O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | ((S)-1-{(S)-2-[4-(4-bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 2.5 g, 74% yield | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](CCC1)C=1NC=C(N1)C1=CC=C(C=C1)Br)=O | C20H25BrN4O3
